US06955851B2
3f. Tris(4-hydroxyphenyl)phosphine Oxide/EPON 828 Adduct.
A mixture of tris(4-hydroxyphenyl)phosphine oxide (prepared in a method analogous to example 2a,b using three equivalents of bromoanisole) (21.2 g) with EPON 828 (79.3 g) was heated over a 7 min period to 150° C. The mixture to this point was a slurry of the phosphine oxide in EPON 828. In the next 4 min., the pot reached a temperature of 180° C., and this point a portion of the phosphine oxide aggregated into a polymeric mass.

reactant | tris(4-hydroxyphenyl)phosphine oxide | OC1=CC=C(C=C1)P(C1=CC=C(C=C1)O)(C1=CC=C(C=C1)O)=O | C18H15O4P
reactant | bromoanisole | three equivalents | BrC1=C(C=CC=C1)OC | C7H7BrO
reactant | phosphine oxide | [PH3]=O | H3OP
reactant | EPON 828 | CC(C)(C1=CC=C(C=C1)O)C2=CC=C(C=C2)O.C1C(O1)CCl
reactant | EPON 828 | 79.3 g | CC(C)(C1=CC=C(C=C1)O)C2=CC=C(C=C2)O.C1C(O1)CCl
product | Tris(4-hydroxyphenyl)phosphine Oxide EPON 828 | OC1=CC=C(C=C1)P(C1=CC=C(C=C1)O)(C1=CC=C(C=C1)O)=O.CC(C)(C1=CC=C(C=C1)O)C2=CC=C(C=C2)O.C1C(O1)CCl | InChI=1S/C18H15O4P.C15H16O2.C3H5ClO/c19-13-1-7-16(8-2-13)23(22,17-9-3-14(20)4-10-17)18-11-5-15(21)6-12-18;1-15(2,11-3-7-13(16)8-4-11)12-5-9-14(17)10-6-12;4-1-3-2-5-3/h1-12,19-21H;3-10,16-17H,1-2H3;3H,1-2H2
